Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo male with a history of COPD on 3L home O2, ongoing tobacco 
use, lung cancer s/p left upper lobectomy, CAD with history of 
MI, PVD s/p stenting, AAA s/p endovascular repair, DMII, 
hypertension, hyperlipidemia, recent hospitalization for COPD 
exacerbation, who presents with acute respiratory distress upon 
waking up this morning.

Patient is a limited historian, attempted to verify information 
with daughter via telephone, but she is also unclear about the 
details of his medical care because she has been back and forth 
from ___.

Patient was discharged from ___ to short term rehab, and was 
discharged from rehab about 1 week ago.  He reports that he was 
prescribed a course of prednisone and azithromycin, which he 
completed about 5 days ago.  He reports difficulty using his 
CPAP machine and this morning he woke up and felt like he could 
not breathe, so he called EMS.  He states that he started to 
have increased cough this morning, which is dry and not 
productive of sputum.  Denies fevers or chills.  Denies chest 
pain.  Reports trace bilateral pedal edema.  Reports difficulty 
navigating his oxygen tank at home and feels he is at risk of 
falling.  Reports dyspnea with minimal exertion.  Denies fevers, 
chills, nausea, vomiting.  

Patient reports he has been hospitalized > 5 times this calendar 
year, between ___ and the ___.
 
Past Medical History:
Per ___, verified with patient
COPD on 3L at baseline
HTN
?fast HR
Stage 1a NSCLC s/p LUL lobectomy
CAD - hx of MI ___ years ago)
Delusional disorder
Lumbar radiculopathy
Chronic back pain
PVD s/p stenting 
OSA
Peripheral neuropathy
GERD
HLD
T2DM non-insulin dependent 
Incisional hernia
AAA s/p endovascular repair 
 
Social History:
___
Family History:
Per OMR, reviewed with patient
Patient does not know family history. He recalls that his mother 
had duodenal ulcers.  
1 sister: deceased 
mother: deceased 
daughter: good health 
father: not known  

 
Physical Exam:
ADMISSION EXAM:
T 97.4 BP 143 P ___ R 20 Sat 99% 3L
Gen:  Mildly dyspneic, in no distress
HEENT: NCAT, EOMI, anicteric sclera
Card:  Normal S1, S2 no m/r/g
Resp:  Coarse rhonchi, occasional wheeze, mildly increased work 
of breathing
GI:  Soft, nontender, +large RLQ ventral hernia, NABS
Extr:  Trace bilateral pedal edema, warm
Neuro:  Alert, oriented, suspect mild cognitive impairment / 
limited historian, strength is full and symmetric

DISCHARGE EXAM:
98.2, 127/83, 94, 18, 98% on 3L
Gen: NAD, sitting up in chair comfortably
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: tachy but regular, no MRG
Resp: breathing comfortably with normal effort and no accessory
muscle use. good air movement bilaterally. No wheezing.
GI: soft, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice. Venous stasis with 
nonpitting
edema of the bilateral lower extremities L>R.
Neuro: AAOx3. CNs II-XII intact. MAEE.
Psych: Full range of affect
 
Pertinent Results:
ADMISSION LABS:

___ 06:30AM BLOOD WBC-4.9 RBC-3.89* Hgb-10.9* Hct-36.5* 
MCV-94 MCH-28.0 MCHC-29.9* RDW-15.9* RDWSD-54.4* Plt ___
___ 06:30AM BLOOD Neuts-60.0 ___ Monos-12.9 Eos-1.0 
Baso-0.2 Im ___ AbsNeut-2.93 AbsLymp-1.18* AbsMono-0.63 
AbsEos-0.05 AbsBaso-0.01
___ 06:30AM BLOOD Glucose-97 UreaN-16 Creat-0.8 Na-144 
K-3.9 Cl-100 HCO3-37* AnGap-11

IMAGING / STUDIES:

CHEST X-RAY:  Report and imaging reviewed by me
Patient is status post left upper lobectomy, with surgical clips 
noted near 
the left hilus. This results in volume loss of the left 
hemithorax. Streaky 
bibasilar opacities may represent atelectasis or scarring. No 
other 
consolidation, sizable pleural effusion or pneumothorax. Heart 
size is 
normal. No acute osseous abnormalities are identified. 
IMPRESSION:  No acute cardiopulmonary process. 

ECG: Sinus tachycardia. Possible prior inferior wall myocardial 
infarction. No
major change from the previous tracing.

LLE VENOUS DUPLEX:No evidence of deep venous thrombosis in the 
left lower extremity veins.  The
peroneal veins were not well seen.

PERTINENT MICRO: none

DISCHARGE LABS:

___ 06:50AM BLOOD WBC-6.1 RBC-3.88* Hgb-10.7* Hct-36.6* 
MCV-94 MCH-27.6 MCHC-29.2* RDW-15.5 RDWSD-53.5* Plt ___
___ 06:50AM BLOOD Glucose-134* UreaN-13 Creat-0.8 Na-142 
K-4.1 Cl-98 HCO3-38* AnGap-___ with history of COPD on 3L home O2, ongoing tobacco use, 
lung cancer s/p left upper lobectomy, CAD, PVD, AAA s/p repair, 
T2DM, HTN, and HLD presents from home with acute shortness of 
breath and wheezing, now improved after receiving nebulizers and 
steroids. 

# Dyspnea
# COPD with exacerbation
# Mild cognitive impairment
The patient presented with very acute onset of dyspnea at home 
and mild obstruction on admission exam. He was started on 
nebulizers and steroids, and his mild wheezing resolved. Upon 
further interviewing, the patient states that his dyspnea was 
related to anxiety from social issues he is having at home. He 
lives in an independent living facility for homeless elders and 
states he has disagreements with some of the other residents. 
Upon speaking with the patient's ___ providers, it appears the 
patient has been hospitalized at multiple ___ in 
the last several months for the exact same presentation. The ___ 
(his primary care clinic) has tried to arrange case managers and 
palliative care to help the patient avoid hospitalizations, but 
he often stands in the way of his own care and is lost to follow 
up. His mild cognitive impairment appears to be gradually 
worsening, and both the ___ and his independent living facility 
personnel have been working with him to find a more suitable 
living arrangement. Please see Social Work notes in OMR.
Due to low suspicion for a clinically significant COPD flare and 
rising blood sugars on prednisone, it was decided to limit his 
treatment course to a five day burst rather than an extend 
prednisone taper as would usually be warranted in a patient with 
recurrent COPD exacerbations. He completed 5 days of prednisone 
(no antibiotics) in the hospital along with his home inhalers 
and nebulizers prn. He was seen by ___ who found the patient to 
be safe for home but recommended ___, ___, and OT. These services 
were provided on discharge.

His hospital course was also notable for:
# Sinus tachycardia: Noted on prior hospitalization during which 
time PE was ruled out with CTA chest. His ___ providers confirm 
that this issue is known, and he has been scheduled with 
cardiology at the ___ but fails to show. He was continued on his 
home diltiazem and metoprolol XL doses with HRs in the ___.

# Type 2 diabetes mellitus: Fingersticks were elevated to the 
200s-300s. This was likely due to prednisone and should be 
monitored after discharge once patient is off prednisone. 

Chronic issues:
# CAD: No evidence of ACS. He was continued on his home ASA, 
statin, and beta blocker.
#Nicotine dependence, marijuana use: smoking cessation 
encouraged.
#Peripheral Artery Disease s/p stent: continued on home 
Cilostazol.
#Peripheral neuropathy: continued on home Gabapentin.

[x] I have seen and examined the patient and agree that the
patient is ready for discharge. 
[x] Greater than 30 minutes were spent coordinating the care of
this patient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete
1. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Metoprolol Succinate XL 75 mg PO DAILY 
5. mometasone 200 mcg/actuation inhalation BID 
6. TraMADol 100 mg PO Q6H:PRN pain 
7. Acetaminophen 1000 mg PO Q8H:PRN pain 
8. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
9. Aspirin 81 mg PO DAILY 
10. Cilostazol 100 mg PO BID 
11. Diltiazem Extended-Release 360 mg PO DAILY 
12. Docusate Sodium 100 mg PO BID 
13. Gabapentin 300 mg PO TID 
14. Gabapentin 300 mg PO QHS 
15. Guaifenesin ER 600 mg PO Q12H 
16. Lidocaine 5% Patch 1 PTCH TD QAM 
17. Loratadine 10 mg PO DAILY 
18. Nicotine Patch 14 mg TD DAILY 
19. Omeprazole 20 mg PO BID 
20. Rosuvastatin Calcium 40 mg PO QPM 
21. Tamsulosin 0.4 mg PO QHS 
22. Tiotropium Bromide 1 CAP IH DAILY 
23. Vitamin D 1000 UNIT PO DAILY 
24. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
3. Aspirin 81 mg PO DAILY 
4. Cilostazol 100 mg PO BID 
5. Diltiazem Extended-Release 360 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Fluticasone Propionate 110mcg 2 PUFF IH BID 
8. Gabapentin 300 mg PO TID 
9. Gabapentin 300 mg PO QHS 
10. Guaifenesin ER 600 mg PO Q12H 
11. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
12. Lidocaine 5% Patch 1 PTCH TD QAM 
13. Metoprolol Succinate XL 75 mg PO DAILY 
14. Omeprazole 20 mg PO BID 
15. Rosuvastatin Calcium 40 mg PO QPM 
16. Tamsulosin 0.4 mg PO QHS 
17. Tiotropium Bromide 1 CAP IH DAILY 
18. TraMADol 100 mg PO Q6H:PRN pain 
19. Vitamin D 1000 UNIT PO DAILY 
20. budesonide-formoterol 160-4.5 mcg/actuation INHALATION BID 
21. Loratadine 10 mg PO DAILY 
22. MetFORMIN (Glucophage) 1000 mg PO BID 
23. mometasone 200 mcg/actuation inhalation BID 
24. Nicotine Patch 14 mg TD DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
COPD exacerbation
Type 2 diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,
It was a pleasure taking care of you at ___. You came to the 
hospital with shortness of breath. You were treated for a COPD 
exacerbation with an improvement in your symptoms. We now feel 
it is safe for you to leave the hospital. Please be sure to 
follow up with your PCP at the ___ to discuss your lung disease 
and your diabetes.
Best wishes,
Your ___ Care Team
 
Followup Instructions:
___